US04535183
To a stirred solution of 2-hydroxy-6-methoxymethoxybenzaldehyde (0.91 g, 5.1 mM) in dry dimethyl sulphoxide (8 ml) was added potassium t-butoxide (0.57 g, 5.1 mM) with exclusion of moisture. After 10 mins, ethyl 4-bromomethylbenzoate (1.22 g, 5 mM) was added and the whole stirred at room temperature (18 hrs). The reaction mixture was poured into water (100 ml) and the liberated oil extracted into ether. The combined extracts were washed with 5% sodium carbonate solution, water, dried (sodium sulphate) and evaporated. The residual oil (ethyl 4-(2-formyl-3-methoxymethoxyphenoxymethyl)benzoate was dissolved in ethanol (30 ml) and treated with 3 M hydrochloric acid (30 ml) with stirring at 60° C. (30 mins). The solid was filtered off, washed with water, dried, and recrystallised from ethanol/water to give ethyl 4-(2-formyl-3-hydroxyphenoxymethyl)benzoate, m.p. 105°-ω° C. (identical to a sample previously prepared, Example 5(B)).

reactant | 2-hydroxy-6-methoxymethoxybenzaldehyde | 5.1 mM, 0.91 g | OC1=C(C=O)C(=CC=C1)OCOC | C9H10O4
reactant | potassium t-butoxide | 5.1 mM, 0.57 g | CC(C)([O-])C.[K+]
reactant | ethyl 4-bromomethylbenzoate | 5 mM, 1.22 g | BrCC1=CC=C(C(=O)OCC)C=C1 | C10H11BrO2
reactant | water | 100 ml | O | H2O
solvent | dimethyl sulphoxide | 8 ml | CS(=O)C | C2H6OS
product | ethyl 4-(2-formyl-3-hydroxyphenoxymethyl)benzoate | C(=O)C1=C(OCC2=CC=C(C(=O)OCC)C=C2)C=CC=C1O | C17H16O5
